US07465806B2
To 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrole-2-carboxylic acid (62 mg) in DCM (5 mL) was added HOAt (27 mg), EDCI hydrochloride (38 mg) and DIEA (106 μL). The mixture was stirred for 30 min at RT. 1-Isopropyl-piperidin-4-ylamine dihydrochloride (47 mg) and DME (1 mL) were added and stirring was continued for 16 h at RT. The mixture was concentrated in vacuo and the residue was purified by preparative HPLC. The fractions containing the product were evaporated to provide 66 mg of 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide as its trifluoroacetate salt, MS (ESI+): m/e 433 [M+H]+, chloro pattern.

reactant | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrole-2-carboxylic acid | 62 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC=C1)C(=O)O | C13H9ClN2O3S
reactant | HOAt | 27 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI hydrochloride | 38 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIEA | 106 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-Isopropyl-piperidin-4-ylamine dihydrochloride | 47 mg | Cl.Cl.C(C)(C)N1CCC(CC1)N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DME | 1 mL | COCCOC | C4H10O2
product | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | 66 mg | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C21H25ClN4O2S
